US07119109B2
b) [3-(Acetylthio)-hexyl]methylcarbamic acid, 1,1-dimethylethyl ester
To an ice-cooled stirred solution of triphenylphosphine (25.0 g, 95.4 mmol) in tetrahydrofuran (450 ml) under nitrogen was added dropwise diisopropyl azodicarboxylate (19 ml, 93.3 mmol). After 0.5 h, a solution of (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester (11.5 g, 49.8 mmol) and thiolacetic acid (6.8 ml, 95.2 mmol) in tetrahydrofuran (50 ml) was added slowly. The resulting mixture was stirred at 0° C. for 1 h, then allowed to warm to room temperature and stir overnight. The mixture was concentrated to near dryness, the residue triturated with hexanes, the solids removed by filtration, and the filtrate concentrated and the crude material subjected to flash chromatography using ethyl acetate/hexanes as eluent to give the title compound (12 g) as an oil.

reactant | triphenylphosphine | 95.4 mmol, 25.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 93.3 mmol, 19 ml | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
reactant | (3-hydroxyhexyl)methylcarbamic acid, 1,1-dimethylethyl ester | 49.8 mmol, 11.5 g | OC(CCN(C(OC(C)(C)C)=O)C)CCC | C12H25NO3
reactant | thiolacetic acid | 95.2 mmol, 6.8 ml | S1C(=CC=C1)CC(=O)O | C6H6O2S
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | [3-(Acetylthio)-hexyl]methylcarbamic acid, 1,1-dimethylethyl ester | 12 g | C(C)(=O)SC(CCN(C(OC(C)(C)C)=O)C)CCC | C14H27NO3S
